US06348463B1
Ethyl 2-(diethoxyphosphoryl)-3-(4-nitrophenyl)propionate
Ethyl 2-(diethoxyphosphoryl)acetate (5.0 ml, 25.2 mmol) was added to a suspension of sodium hydride (60% in mineral oil, 1.10 g, 27.6 mmol) in THF (40 ml) at 0°. After 30 min at room temperature, a solution of 4-nitrobenzylbromide (5.42 g, 25.2 mmol) in THF (40 ml) was added over 30 min. The reaction mixture was stirred for 2 h at room temperature, quenched with water and partitioned between Et2O and water. The aqueous phase was extracted with Et2O and the combined organic layers washed with brine, dried (MgSO4) and evaporated in vacuo. Column chromatography (silica; MeOH/DCM, 1:49) gave the title compound as a pale yellow oil (2.01 g): δH (CDCl3) 8.13 (2H, d, J 8.8 Hz), 7.37 (2H, d, J 8.8 Hz), 4.23-4.06 (6H, m), 3.37-3.20 (3H, m), 1.35 (6H, t, J 7.1 Hz), 1.16 (3H, t, J 7.1 Hz): m/z (EI+, 70V) 360.

reactant | Ethyl 2-(diethoxyphosphoryl)acetate | 25.2 mmol, 5.0 ml | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | sodium hydride | 27.6 mmol, 1.10 g | [H-].[Na+]
reactant | 4-nitrobenzylbromide | 25.2 mmol, 5.42 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | Ethyl 2-(diethoxyphosphoryl)-3-(4-nitrophenyl)propionate | 2.01 g | C(C)OP(=O)(OCC)C(C(=O)OCC)CC1=CC=C(C=C1)[N+](=O)[O-] | C15H22NO7P
